US06136810
4-(3-Chlorophenyl)-1-ethyl-2-oxo-1,2-dihydropyrido[2,3-d]pyrimidine-7-carbaldehyde (900 mg, 2.9 mmol) was dissolved in 10 ml of methanol, 420 mg (6.0 mmol) of hydroxylamine hydrochloride and 550 mg (6.7 mmol) of sodium acetate were added thereto, followed by stirring overnight at room temperature. The insoluble matter was washed with water and chloroform and recrystallized from dimethylformamide-acetonitrile to give 171 mg (18%) of 4-(3-chlorophenyl)-1-ethyl-7-hydroxyiminomethylpyrido[2,3-d]pyrimidin-2(1H)-one.

reactant | 4-(3-Chlorophenyl)-1-ethyl-2-oxo-1,2-dihydropyrido[2,3-d]pyrimidine-7-carbaldehyde | 2.9 mmol, 900 mg | ClC=1C=C(C=CC1)C=1C2=C(N(C(N1)=O)CC)N=C(C=C2)C=O | C16H12ClN3O2
reactant | hydroxylamine hydrochloride | 6.0 mmol, 420 mg | Cl.NO
reactant | sodium acetate | 6.7 mmol, 550 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 4-(3-chlorophenyl)-1-ethyl-7-hydroxyiminomethylpyrido[2,3-d]pyrimidin-2(1H)-one | 171 mg, 18% | ClC=1C=C(C=CC1)C=1C2=C(N(C(N1)=O)CC)N=C(C=C2)C=NO | C16H13ClN4O2
